US05696138
N-(3,5-dichlorophenyl)-N'-(2-methoxy-5-(trifluoromethyl)phenyl) urea
3,5-dichlorophenyl isocyanate (0.94 g, 5.0 mmol) in toluene (10 ml) was added to a solution of 2-methoxy-5-(trifluoromethyl)aniline (0.96 g, 5.0 mmol) in toluene (10 ml). The reaction was stirred at RT for 1 hour and the product filtered off. 1.20 (63%) of the title compound was isolated.

reactant | 3,5-dichlorophenyl isocyanate | 5.0 mmol, 0.94 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | 2-methoxy-5-(trifluoromethyl)aniline | 5.0 mmol, 0.96 g | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dichlorophenyl)-N'-(2-methoxy-5-(trifluoromethyl)phenyl) urea | ClC=1C=C(C=C(C1)Cl)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C15H11Cl2F3N2O2
